US06177154B1
To a 500 ml three neck flask provided with a stirrer, thermometer, and cooling tube were added 25.0 g (118.5 mmol) of 3,4,5-trifluorobromobenzene, 19.9 g (355.5 mmol) of potassium hydroxide, and 20 ml of ethanol, and heated to reflux while being stirred for 3 hours. After finishing of the reaction, unreacted ethanol was distilled off under a reduced pressure, 200 ml of water was added thereto, and it was extracted with 200 ml of diethyl ether. The extract was washed with water (150 ml) thrice and dried over anhydrous magnesium sulfate. The colorless oily product in an amount of 27.8 g which was obtained by distilling off the solvent was purified by silica gel column chromatography (eluent: heptane, Rf=0.36) to obtain 23.3 g of colorless oily 3,4-difluoro-5-ethoxybromobenzene.

reactant | 3,4,5-trifluorobromobenzene | 118.5 mmol, 25.0 g | FC=1C=C(C=C(C1F)F)Br | C6H2BrF3
reactant | potassium hydroxide | 355.5 mmol, 19.9 g | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 3,4-difluoro-5-ethoxybromobenzene | 23.3 g | FC=1C=C(C=C(C1F)OCC)Br | C8H7BrF2O
